US04252738
16.9 g (0.189 mol) of acetyl bromide are added dropwise to 26.0 g (0.126 mol) of 3-methoxy-3-phenyl-2,4-dioxa-bicyclo[3,2,0]heptane (stereoisomer mixture), at 20° to 30° C. After the reaction has subsided, the mixture is heated to the reflux for 4 hours. Distillation in vacuo gives 32.5 g (99%) of trans-1-bromo-2-benzoyloxy-cyclobutane as a colourless oil of boiling point0.2 94°-97°, which solidifies in the receiver.

reactant | acetyl bromide | 0.189 mol, 16.9 g | C(C)(=O)Br | C2H3BrO
reactant | 3-methoxy-3-phenyl-2,4-dioxa-bicyclo[3,2,0]heptane | 0.126 mol, 26.0 g | COC1(OC2CCC2O1)C1=CC=CC=C1 | C12H14O3
product | trans-1-bromo-2-benzoyloxy-cyclobutane | 32.5 g, 99% | Br[C@H]1[C@@H](CC1)OC(C1=CC=CC=C1)=O | C11H11BrO2
